US07951818B2
D.10: 4-(1-Isopropyl-piperidin-4-yl)-phenylamine
To a solution of 1-isopropyl-4-(4-nitro-phenyl)-piperidine (2.405 g, 9.698 mmol), prepared according to Example 5, in ethanol (100 mL) under nitrogen is added Pd/C 10% (515.9 mg, 0.485 mmol), followed by dropwise addition of hydrazine hydrate (2.427 g, 48.49 mmol). The mixture is refluxed overnight until completion of the reaction. After filtration through a celite plug, the solvent is removed under reduced pressure to yield the title compound, which is used as such for the next step.

reactant | 1-isopropyl-4-(4-nitro-phenyl)-piperidine | 9.698 mmol, 2.405 g | C(C)(C)N1CCC(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C14H20N2O2
reactant | hydrazine hydrate | 48.49 mmol, 2.427 g | O.NN
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | Pd/C | 0.485 mmol, 515.9 mg | [Pd] | Pd
product | 4-(1-Isopropyl-piperidin-4-yl)-phenylamine | C(C)(C)N1CCC(CC1)C1=CC=C(C=C1)N | C14H22N2
